US06596738B1
To a solution of 1-[(R)-1-(tert-butyldimethylsilyloxy)-4-(3-methylindol-1-yl)-2-butyl]imidazol-4-carboxylate (200 mg, 0.45 mmol) in DMF (5 ml) were added ammonium chloride (6 mg, 0.11 mmol) and aqueous 28% NH3 solution (10 ml). And the mixture was heated at 100° C. in a sealed steel tube for 8 hours. After cooling, the reaction mixture was poured into water (50 ml) and extracted with ethyl acetate. The organic layer was washed with brine, dried (magnesium sulfate), and concentrated in vacuo. This material was used for the next reaction without further purification. To an ice cooled solution of the carboxamide prepared above (184 mg) in THF (10 ml) was added dropwise 1.0 M Bu4NF in THF (453 ml). After the addition was completed, the reaction mixture was stirred at ice-bath temperature for 1 hour. 25% AcONH4 (5 ml) was added, and the resulting mixture was stirred for several minutes and then extracted with ethyl acetate. The organic layer was washed with brine, dried (sodium sulfate) and concentrated in vacuo. The residue was triturated with a mixed solvent of isopropyl ether and chloroform (20:1). The resulting precipitates were collected by filtration and washed with the same mixed solvent, and dried in vacuo to give 1-[(R)-1-hydroxy-4-(3-methylindol-1-yl)-2-butyl]-imidazole-4-carboxamide (146 mg, 103%) as a white solid.

reactant | 1-[(R)-1-(tert-butyldimethylsilyloxy)-4-(3-methylindol-1-yl)-2-butyl]imidazol-4-carboxylate | 0.45 mmol, 200 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](CCN1C=C(C2=CC=CC=C12)C)N1C=NC(=C1)C(=O)[O-]
reactant | ammonium chloride | 0.11 mmol, 6 mg | [Cl-].[NH4+]
reactant | NH3 | 10 ml | N | H3N
reactant | Bu4NF | 1.0 M | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
reactant | AcONH4 | 5 ml | C(=O)(C)[O-].[NH4+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 453 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | 1-[(R)-1-hydroxy-4-(3-methylindol-1-yl)-2-butyl]-imidazole-4-carboxamide | 146 mg, 103% | OC[C@@H](CCN1C=C(C2=CC=CC=C12)C)N1C=NC(=C1)C(=O)N | C17H20N4O2
